US05136037
3-(4-(1-[1,2-Benzisothiazol-3-yl]-4-piperazinyl)butyl-2,5,5-trimethyl-4-thiazolidinone hydrochloride
A mixture of 3-(4-bromobutyl)-2,5,5-trimethyl-4-thiazolidinone (4.70 g), 1-(1,2-benzisothiazol-3-yl)piperazine 1-(1,2-benzisothiazol-3-yl)piperazine hydrochloride (4.72 g), K2CO3 (8.13 g) and NaI (300 mg) in acetonitrile (200 ml) was heated at 65° C. for 16 hours and the product was processed in substantially the same manner as in Example 10 to afford 2.77 g of crystals, m.p. 209°-214° C.

reactant | 3-(4-bromobutyl)-2,5,5-trimethyl-4-thiazolidinone | 4.70 g | BrCCCCN1C(SC(C1=O)(C)C)C | C10H18BrNOS
reactant | 1-(1,2-benzisothiazol-3-yl)piperazine 1-(1,2-benzisothiazol-3-yl)piperazine hydrochloride | 4.72 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCNCC2.S2N=C(C1=C2C=CC=C1)N1CCNCC1
reactant | K2CO3 | 8.13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 300 mg | [Na+].[I-]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-(1-[1,2-Benzisothiazol-3-yl]-4-piperazinyl)butyl-2,5,5-trimethyl-4-thiazolidinone hydrochloride | 2.77 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCC2(SC(C(N2)=O)(C)C)C | InChI=1S/C21H30N4OS2.ClH/c1-20(2)19(26)22-21(3,28-20)10-6-7-11-24-12-14-25(15-13-24)18-16-8-4-5-9-17(16)27-23-18;/h4-5,8-9H,6-7,10-15H2,1-3H3,(H,22,26);1H
